US05958942
i) Synthesis of 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 273 mg (3.68 mmol) of 1,3-diaminopropane and 951 mg (7.36 mmol) of N,N-diisopropylethylamine in 15 ml of acetonitrile was added a solution of 1.235 g (3.68 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo [1,2-a]pyridine in 15 ml of acetonitrile. The mixture was heated for 45 minutes under reflux. After cooling, the resulting insolubles were filtered off. To the filtrate was added 1.578 g (4.42 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added chloroform. The mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate), which was crystallized from ethyl acetate. The crystalline product was collected by filtration, washed with ether, and dried to give 607 mg of the desired compound (43.8%, colorless solid), m.p.169.0-170.0° C.

reactant | 1,3-diaminopropane | 3.68 mmol, 273 mg | NCCCN | C3H10N2
reactant | N,N-diisopropylethylamine | 7.36 mmol, 951 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo [1,2-a]pyridine | 3.68 mmol, 1.235 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | N-phenyltrifluoromethanesulfonimide | 4.42 mmol, 1.578 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-[3-(trifluoromethanesulfonamido)propan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 607 mg, 43.8% | FC(S(=O)(=O)NCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C13H11F3N4O4S
